US05576313
Step 1: Preparation of N-benzyl-4-benzyl-4-piperidinol
To a solution of benzyl magnesium chloride (40 ml of 2.0 M soln. in THF, 80 mmol)in THF (80 ml) was added 1-benzyl-4-piperidinone (7.4 ml, 40 mmol) over 7 min. and stirred overnight. The o reaction mixture was poured over ice and extracted with ether (2×). The combined ether extracts were washed with brine, dried (Na2SO4), and concentrated in vacuo to a pale green syrup. This material was chromatographed on silica with 50-60% EtOAc/hexane as eluent. The appropriate fractions were combined and concentrated in vacuo to afford the product as an off white solid.

reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | 1-benzyl-4-piperidinone | 40 mmol, 7.4 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | N-benzyl-4-benzyl-4-piperidinol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=CC=CC=C1 | C19H23NO
